US04150137
To a solution of 3.5 g of p-isobutylphenylacetic acid sodium salt in 20 ml of dimethylformamide was added 5.9 g of o-chlorobenzyl chloride, and the mixture was heated under reflux for 5 hours. After the reaction was complete, the mixture was cooled to produce an inorganic substance, which was then removed by filtration. The filtrate was freed of dimethylformamide by distillation in vacuo to give an oily product. Distillation of this product in vacuo yielded 3.8 g of p-isobutylphenylacetic acid-2-chlorobenzyl ester as a colorless oil, boiling at 145°-147° C/1 mmHg. Analysis-Calculated for C19H21ClO2 : C, 72.03; H, 6.68. Found: C, 71.98; H, 6.51. Mass spectrum: parent ion 316 m/e.

reactant | p-isobutylphenylacetic acid sodium salt | 3.5 g | [Na+].C(C(C)C)C1=CC=C(C=C1)CC(=O)[O-]
reactant | o-chlorobenzyl chloride | 5.9 g | ClC1=C(CCl)C=CC=C1 | C7H6Cl2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | p-isobutylphenylacetic acid-2-chlorobenzyl ester | 3.8 g | ClC1=C(COC(CC2=CC=C(C=C2)CC(C)C)=O)C=CC=C1 | C19H21ClO2
